US06696470B2
2,5-Dichloro-N-methoxy-N-methyl-3-thiophenecarboxamide
To a stirred solution of 2,5-dichloro-3-thiophenecarbonylchloride (1.08 g, 5.0 mmol) and pyridine (2 mL) in CH2Cl2 (10 mL) was added N,O-dimethylhydroxylamine hydrochloride (490 mg, 5.0 mmol) at room temperature, and the mixture was stirred for 18 hours. CH2Cl2 (10 mL) was added to the mixture. The combined organic layers were washed with 1N HCl solution, saturated NaHCO3 solution, brine, dried over MgSO4, and concentrated in vacuo to give light yellow oil (1.09 g, 91% yield). The compound was used for next reaction without purification.

reactant | 2,5-dichloro-3-thiophenecarbonylchloride | 5.0 mmol, 1.08 g | ClC=1SC(=CC1C(=O)Cl)Cl | C5HCl3OS
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | N,O-dimethylhydroxylamine hydrochloride | 5.0 mmol, 490 mg | Cl.CNOC
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,5-Dichloro-N-methoxy-N-methyl-3-thiophenecarboxamide | 1.09 g, 91% yield | ClC=1SC(=CC1C(=O)N(C)OC)Cl | C7H7Cl2NO2S
